US03952033
Preparation of 2,5-dihydro-2,5-dimethoxy-2-(2'-carbethoxyethyl)furan
To a stirred solution of 2-(2'-carbethoxyethyl)furan (42.5 g.) in 750 ml. of methanol containing 53 g. of sodium carbonate at -25°C. is added a solution of 40.5 g. of bromine in 250 ml. of methanol during the course of 2.5 hours. The solution is stirred at room temperature for 30 minutes, diluted with brine, and extracted with diethyl ether. The extract is washed with brine, dried over magnesium sulfate, and concentrated. The residue is distilled to provide a light yellow liquid, b.p. 78°-84°C. (0.2 mm.), γ max 1740 (ester carbonyl group) and 1015 cm-1 (dimethoxydihydrofuran group).

reactant | 2-(2'-carbethoxyethyl)furan | 42.5 g | C(=O)(OCC)CCC=1OC=CC1 | C9H12O3
reactant | methanol | 53 g | CO | CH4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | BrBr | Br2
solvent | brine | [Cl-].[Na+].O
product | 2,5-dihydro-2,5-dimethoxy-2-(2'-carbethoxyethyl)furan | COC1(OC(C=C1)OC)CCC(=O)OCC | C11H18O5
